US08686184B2
2-[3-((1R,2R)-1-Benzyl-2-ethoxycarbonyl-2-hydroxy-ethylcarbamoyl)-propyl]-benzoic Acid (R1═—OCH2CH3)
2-(3-Carboxy-propyl)benzoic acid (69.9 mg, 336 μmol, 1.0 eq.) was combined with DIPEA (187 μL, 3.2 eq.) and HATU (128 mg, 336 μmol, 1.0 eq.) in DCM (7 mL). (2R,3R)-3-Amino-2-hydroxy-4-phenyl-butyric acid ethyl ester (75 mg, 340 μmol, 1.0 eq.) was added and the resulting mixture was stirred for 1 hour. The reaction was quenched by adding saturated NH4Cl and the product was extracted with DCM, dried, and evaporated. One third of the crude product (was dissolved in AcOH (1 mL) and purified by preparative HPLC to yield the title compound (12 mg, 95% purity). MS m/z [M+H]+ calc'd for C23H27NO6, 414.18. found 414.2.

reactant | 2-(3-Carboxy-propyl)benzoic acid | 336 μmol, 69.9 mg, 1.0 eq. | C(=O)(O)CCCC1=C(C(=O)O)C=CC=C1 | C11H12O4
reactant | DIPEA | 187 μL, 3.2 eq. | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 336 μmol, 128 mg, 1.0 eq. | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | (2R,3R)-3-Amino-2-hydroxy-4-phenyl-butyric acid ethyl ester | 340 μmol, 75 mg, 1.0 eq. | C(C)OC([C@@H]([C@@H](CC1=CC=CC=C1)N)O)=O | C12H17NO3
solvent | DCM | 7 mL | C(Cl)Cl | CH2Cl2
product | 2-[3-((1R,2R)-1-Benzyl-2-ethoxycarbonyl-2-hydroxy-ethylcarbamoyl)-propyl]-benzoic Acid | 12 mg, 95% | C(C1=CC=CC=C1)[C@H]([C@@H](O)C(=O)OCC)NC(=O)CCCC1=C(C(=O)O)C=CC=C1 | C23H27NO6
